US05563288
wherein the 2-(N,N-dimethylamino)ethanol reacts with the isopropyl 2-dimethylaminoethyl carbonate to form bis[2-(N,N-dimethylamino)ethyl] carbonate and isopropanol,

reactant | 2-(N,N-dimethylamino)ethanol | CN(C)CCO | C4H11NO
reactant | isopropyl 2-dimethylaminoethyl carbonate | C(OC(C)C)(OCCN(C)C)=O | C8H17NO3
solvent | isopropanol | C(C)(C)O | C3H8O
product | bis[2-(N,N-dimethylamino)ethyl] carbonate | C(OCCN(C)C)(OCCN(C)C)=O | C9H20N2O3
